US07244843B2
Step A. Preparation of (R)-Methyl 1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylate
D-Phenylalanine methyl ester (1.56 g of HCl salt, Aldrich in CH2Cl2 washed with saturated NaHCO3 and dried, 7.3 mmol) and diisopropylethylamine (2.1 ml, 8.9 mmol) in 1,2-dichloroethane (13 ml) was added dropwise over 30 min to a stirring solution of triphosgene (1.1 g, 5.2 mmol) in 1,2-dichloroethane (13 ml). After stirring at ambient temperature for 1.5 h, the reaction was cooled to 0° C. and aluminum chloride (2.2 g) was added. After refluxing for 2.5 h, the reaction was once again cooled to 0° C. and quenched by slowly adding water (13 ml). After stirring for 1 h, the reaction mixture was transferred to a separatory funnel with CH2Cl2. Extraction with CH2Cl2 (2×) and drying over MgSO4 afforded 1.8 g of crude product. Flash chromatography (SiO2, 0 to 100% EtOAc in CH2Cl2) afforded pure product (0.65 g, 43% yield). MS (ESI) 206 (M+H).

reactant | D-Phenylalanine methyl ester | 7.3 mmol, 1.56 g | COC([C@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | diisopropylethylamine | 8.9 mmol, 2.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 5.2 mmol, 1.1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | aluminum chloride | 2.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 13 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 13 ml | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-Methyl 1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 0.65 g, 43% yield | O=C1N[C@H](CC2=CC=CC=C12)C(=O)OC | C11H11NO3
